US05773463
(±) cis-2-Ethoxy-3a,4,5,9b-tetrahydronapth[2,1-d]oxazole
A solution of (±) trans-1-chloro-2-ethoxycarbonylamino-1,2,3,4-tetrahydronaphthalene (L. M. Gaster and B. S. Orlek, EP 88575)(1.0 g, 4.0 mmol) in ethanol (100 ml) was treated dropwise with a solution of KHCO3 (0.44 g, 4.4 mmol in 30 ml water) over a period of 3 h. After stirring for a further 30 min the reaction was concentrated under high vacuum to approximately one quarter the original volume, then diluted with water and extracted into diethyl ether (3×100 ml). The combined extracts were washed with brine, dried over Na2SO4 and concentrated in vacua. Flash chromatography on silica gel using petroleum ether 60/80-ethyl acetate as eluant, followed by distillation in a kugelrohr (b.p. 180° C. at 0.4 mmHg) afforded the title compound as a colourless oil (0.69 g).

reactant | (±) trans-1-chloro-2-ethoxycarbonylamino-1,2,3,4-tetrahydronaphthalene | 4.0 mmol, 1.0 g | Cl[C@H]1[C@@H](CCC2=CC=CC=C12)NC(=O)OCC | C13H16ClNO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (±) cis-2-Ethoxy-3a,4,5,9b-tetrahydronapth[2,1-d]oxazole | 0.69 g | C(C)OC=1O[C@@H]2[C@H](N1)CCC1=CC=CC=C12 | C13H15NO2
